US07410966B2
6-Bromo-2-(4-bromo-1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine
The title compound was prepared from 5-bromo-2,3-diaminopyridine and 4-bromo-1H-pyrazole-5-carbaldehyde.

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 4-bromo-1H-pyrazole-5-carbaldehyde | BrC=1C=NNC1C=O | C4H3BrN2O
product | 6-Bromo-2-(4-bromo-1H-pyrazol-3-yl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=NNC=C2Br | C9H5Br2N5
